US08242145B2
Step 1: [3-(4-Bromo-2-formyl-phenoxy)-phenyl]-acetic acid
3-Hydroxyphenylacetic acid (3 g, 19.7 mmol) and 5-bromo-2-fluorobenzaldehyde (2.34 mL, 19.7 mmol) were combined in DMF (60 mL). Sodium hydride (60% in mineral oil; 1.58 g, 39.4 mmol) was added portionwise, and the reaction was stirred at 70° C. for 3 hours. Additional 5-bromo-2-fluorobenzaldehyde (2.34 mL, 19.7 mmol) and sodium hydride (60% in mineral oil; 0.79 g, 19.7 mmol) were added, and the reaction was stirred at 70° C. for 3 hours. The mixture was acidified with 1N aqueous HCl to pH 3-4 and extracted with EtOAc, and the combined organic layers were washed three times with H2O, dried and concentrated. The residue was purified by silica gel chromatography (20-40% EtOAc in hexanes) to give the desired product (2.7 g).

reactant | 3-Hydroxyphenylacetic acid | 19.7 mmol, 3 g | OC=1C=C(C=CC1)CC(=O)O | C8H8O3
reactant | 5-bromo-2-fluorobenzaldehyde | 19.7 mmol, 2.34 mL | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | Sodium hydride | 39.4 mmol, 1.58 g | [H-].[Na+]
reactant | 5-bromo-2-fluorobenzaldehyde | 19.7 mmol, 2.34 mL | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | sodium hydride | 19.7 mmol, 0.79 g | [H-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | [3-(4-Bromo-2-formyl-phenoxy)-phenyl]-acetic acid | 2.7 g | BrC1=CC(=C(OC=2C=C(C=CC2)CC(=O)O)C=C1)C=O | C15H11BrO4
